US08685986B2
1-(a) tert-Butyl[tert-butoxycarbonyl(6-methylpyridin-2-yl)amino]acetate
To a solution of 2-(tert-butoxycarbonylamino)-6-methylpyridine (723 mg, 3.47 mmol) in N,N-dimethylformamide (11.5 ml) was added sodium hydride (mineral oil 55% dispersion) (0.18 g, 4.2 mmol) in portions under ice cooling. After stirring at room temperature for 30 minutes, tert-butyl bromoacetate (0.62 ml, 4.2 mmol) was added dropwise under ice cooling, followed by stirring at room temperature for 2 hours. After completion of the reaction, water was added to the reaction solution, followed by extraction with ethyl acetate. The separated organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography (eluent; hexane:ethyl acetate=10:1→5:1 (V/V)), and fractions containing the desired compound were concentrated under reduced pressure to afford the title compound (1.14 g) substantially quantitatively as a colorless liquid.

reactant | 2-(tert-butoxycarbonylamino)-6-methylpyridine | 3.47 mmol, 723 mg | C(C)(C)(C)OC(=O)NC1=NC(=CC=C1)C | C11H16N2O2
reactant | sodium hydride | 4.2 mmol, 0.18 g | [H-].[Na+]
reactant | tert-butyl bromoacetate | 4.2 mmol, 0.62 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 11.5 ml | CN(C=O)C | C3H7NO
product | tert-Butyl[tert-butoxycarbonyl(6-methylpyridin-2-yl)amino]acetate | 1.14 g | C(C)(C)(C)OC(CN(C1=NC(=CC=C1)C)C(=O)OC(C)(C)C)=O | C17H26N2O4
